Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
atorvastatin / Cipro / Feraheme
 
Attending: ___.
 
Chief Complaint:
Chest Pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr ___ is a ___ M with PMH of CAD (s/p multiple PCI), HFpEF,
HIV, HCV, COPD, HTN, CKD, who presents for chest pain. 

The patient notes that for the last 3 days he has developed
left-sided chest pressure, that is dull and achy and constant. 
Of note, he has a long history of CAD, and he notes that this
chest pain is similar to prior episodes of cardiac chest pain. 
Throughout this time he endorses shortness of breath however he
is always short of breath given his COPD and this is not
particularly worse right now.  He otherwise denies fevers,
chills, nausea, vomiting, palpitations, syncope, lower extremity
edema.

He called EMS, who gave him aspirin 325 and nitroglycerin with
some relief.  In the emergency room he had an EKG that was 
normal
and cardiac enzymes that were only very mildly elevated.  Given
his ongoing chest pain, he was recommended admission for further 
work up..
 
Past Medical History:
- CAD status post multiple PCIs
- HFpEF
- Hepatitis C cirrhosis complicated by portal HTN
- HIV
- CKD
- HTN
- PAD
- Mild aortic incompetence
- GERD
- Chronic diarrhea
- COPD
- Anemia of chronic disease
- G6PD deficiency 
- Peripheral neuropathy
- BPH
- IBS
- SIADH
- Cervical stenosis status post surgical repair
 
Social History:
___
Family History:
Mother died aged ___ secondary to heart failure. Father died aged 
___ of unknown causes. Brother aged ___ with history of 
cardiomegaly. 
 
Physical Exam:
Physical Exam:
ADMISSION PHYSICAL EXAM
=======================
___ 2341 Temp: 97.8 PO BP: 161/82 L Lying HR: 82 RR: 18 O2
sat: 99% O2 delivery: Ra 
GEN: Well appearing, NAD
HEENT: Conjunctiva clear, PERRL, MMM
NECK: No JVD noted
LUNGS: Decreased breath sounds throughout. No rales
HEART: RRR, nl S1, S2. No m/r/g.
ABD: NT/ND, normal bowel sounds. 
EXTREMITIES: No edema. WWP.
SKIN: No rashes.
NEURO: AOx3. 
 
DISCHARGE PHYSICAL EXAM
=======================
___ Temp: 98.2, BP: 124/56, HR: 85 RR: 18, O2 sat: 98% O2 
delivery: Ra
GENERAL: NAD
HEENT: AT/NC, anicteric sclera, MMM, mild left posterior jaw 
tenderness
NECK: supple, no LAD
GEN: Well appearing, NAD
HEENT: Conjunctiva clear, PERRL, MMM
NECK: No JVD noted
LUNGS: Decreased breath sounds throughout. No rales
HEART: RRR, nl S1, S2. No m/r/g.
ABD: NT/ND, normal bowel sounds. 
EXTREMITIES: No edema. WWP.
SKIN: No rashes.
NEURO: AOx3. 
 
Pertinent Results:
Pertinent Results:
ADMISSION LABS
==============
___ 01:42PM BLOOD WBC-4.8 RBC-2.88* Hgb-9.1* Hct-29.0* 
MCV-101* MCH-31.6 MCHC-31.4* RDW-13.2 RDWSD-49.1* Plt ___
___ 07:38PM BLOOD WBC-5.6 RBC-3.05* Hgb-9.7* Hct-30.3* 
MCV-99* MCH-31.8 MCHC-32.0 RDW-13.2 RDWSD-47.7* Plt ___
___ 01:42PM BLOOD Neuts-42.0 ___ Monos-8.0 Eos-3.6 
Baso-0.6 Im ___ AbsNeut-2.00 AbsLymp-2.16 AbsMono-0.38 
AbsEos-0.17 AbsBaso-0.03
___ 01:42PM BLOOD Plt ___
___ 07:38PM BLOOD ___ PTT-146.9* ___
___ 07:38PM BLOOD Plt ___
___ 01:42PM BLOOD Glucose-98 UreaN-90* Creat-3.8* Na-136 
K-4.2 Cl-100 HCO3-18* AnGap-18
___ 07:38PM BLOOD Glucose-101* UreaN-88* Creat-3.6* Na-138 
K-4.0 Cl-101 HCO3-16* AnGap-21*
___ 01:42PM BLOOD ALT-9 AST-14 AlkPhos-105 TotBili-0.4
___ 01:42PM BLOOD proBNP-137
___ 01:42PM BLOOD cTropnT-0.03*
___ 07:38PM BLOOD cTropnT-0.03*
___ 07:38PM BLOOD cTropnT-0.02*
___ 01:42PM BLOOD Albumin-3.8

RELEVANT LABS:
==============
___ 01:42PM BLOOD proBNP-137
___ 01:42PM BLOOD cTropnT-0.03*
___ 07:38PM BLOOD cTropnT-0.03*
___ 07:38PM BLOOD cTropnT-0.02*

IMAGING
=======
CXR ___
1. No evidence for congestive heart failure or pneumonia.
2. 12 mm nodular opacity projecting over the right lung base may 
reflect a
nipple shadow, but would recommend repeat chest radiographs with 
nipple
markers for further assessment.

Stress Test ___
IMPRESSION: 1. Normal myocardial perfusion. 2. Left ventricular 
systolic
function is normal with an ejection fraction of 60%.

DISCHARGE LABS:
===============
___ 06:31AM BLOOD WBC-5.2 RBC-3.14* Hgb-10.0* Hct-32.2* 
MCV-103* MCH-31.8 MCHC-31.1* RDW-13.2 RDWSD-49.7* Plt ___
___ 06:38AM BLOOD Glucose-107* UreaN-108* Creat-3.9* Na-140 
K-4.2 Cl-107 HCO3-17* AnGap-16
___ 06:38AM BLOOD Calcium-9.0 Phos-5.7* Mg-2.3
 
Brief Hospital Course:
TRANSITIONAL ISSUES
===================
[ ] Repeat BMP in 1 week to monitor kidney function. Discharge 
Cr 3.9

Mr ___ is a ___ M with PMH of CAD (s/p multiple PCI), HFpEF, 
HIV, HCV (s/p Harvoni), COPD, HTN, CKD, who presents for chest 
pain, with concern for unstable angina. His symptoms persisted
over a 3-day with no significant troponin or ECG changes. He had 
nuclear stress test performed which did not demonstrate any 
perfusion defects and showed normal EF.

ACUTE ISSUES:
=============
# Unstable Angina
# CAD
Patient has long history of CAD (follows with ___, s/p DES to 
mid-LAD, D1 branch, and distal-RCA on ___, s/p Premier DES 
to mLCX on ___, and BMS to LAD ___. Stress MIBI in ___ 
(after last PCI) showed reversible LAD and LCX terriorty 
changes. Intervention was deferred at this time given signficant 
CKD and preference for medical therapy. Presented with concern 
for unstable angina in setting of troponin 0.03. PMIBI on ___ 
did not show perfusion defects and showed normal EF. Continued 
ASA, coreg, home statin.

___ on CKD IV
CKD presumed due to HTN and possible secondary FSGS. Baseline Cr 
mid-3s. Had mild ___, likely pre-renal from prolonged NPO status 
while trying to obtain stress test over weekend. Downtrending to 
3.9 on discharge. Continued home Calcitriol and Torsemide

CHRONIC ISSUES:
===============
# PAD
Is currently getting worked up for peripheral artery disease as 
an outpatient at this time (___) as he has atypical type 
LLE claudication symptoms and known LLE PAD.

# HTN
Continued home antihypertensive regimen (amlodipine 5, 
isosorbide mononitrate 120 twice daily, carvedilol 25 twice 
daily, diltiazem fractionated to 60 mg q6 hr, and hydralazine 50
mg twice daily.)

# HIV
Currently well controlled on below regimen. Continued home 
abacavir 300mg BID, efavirenz 600mg daily, and lamivudine 100mg 
daily

# COPD
Continued duonebs q6hr prn

# GERD
Continued pantoprazole 20mg BID

# HCV
S/p succesful treatment with Harvoni. Has upcoming f/u with 
hepatology

CORE MEASURES
CODE STATUS: Full code 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Abacavir Sulfate 300 mg PO BID 
2. Aspirin 81 mg PO DAILY 
3. Calcitriol 0.25 mcg PO DAILY 
4. Cyanocobalamin 1000 mcg PO DAILY 
5. Diltiazem Extended-Release 240 mg PO DAILY 
6. Docusate Sodium 100 mg PO BID 
7. Doxazosin 2 mg PO HS 
8. Efavirenz 600 mg PO DAILY 
9. HydrALAZINE 50 mg PO Q12H 
10. Ipratropium-Albuterol Inhalation Spray 1 INH IH Q6H 
11. Isosorbide Mononitrate (Extended Release) 120 mg PO BID 
12. LaMIVudine 100 mg PO DAILY 
13. Pantoprazole 20 mg PO Q12H 
14. Pravastatin 10 mg PO QPM 
15. CARVedilol 25 mg PO BID 
16. Torsemide 60 mg PO DAILY 
17. Fluticasone Propionate NASAL 1 SPRY NU BID nasal congestion 
18. amLODIPine 5 mg PO DAILY 
19. Timolol Maleate 0.5% 1 DROP BOTH EYES DAILY 
20. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 

 
Discharge Medications:
1.  Abacavir Sulfate 300 mg PO BID  
2.  amLODIPine 5 mg PO DAILY  
3.  Aspirin 81 mg PO DAILY  
4.  Calcitriol 0.25 mcg PO DAILY  
5.  CARVedilol 25 mg PO BID  
6.  Cyanocobalamin 1000 mcg PO DAILY  
7.  Diltiazem Extended-Release 240 mg PO DAILY  
8.  Docusate Sodium 100 mg PO BID  
9.  Doxazosin 2 mg PO HS  
10.  Efavirenz 600 mg PO DAILY  
11.  Fluticasone Propionate NASAL 1 SPRY NU BID nasal congestion 
 
12.  HydrALAZINE 50 mg PO Q12H  
13.  Ipratropium-Albuterol Inhalation Spray 1 INH IH Q6H  
14.  Isosorbide Mononitrate (Extended Release) 120 mg PO BID  
15.  LaMIVudine 100 mg PO DAILY  
16.  Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS  
17.  Pantoprazole 20 mg PO Q12H  
18.  Pravastatin 10 mg PO QPM  
19.  Timolol Maleate 0.5% 1 DROP BOTH EYES DAILY  
20.  Torsemide 60 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Unstable Angina
CAD
CKD

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___ 
___ was a privilege caring for you at ___.  

WHY WAS I IN THE HOSPITAL?  
- You came into the hospital because you were experiencing chest 
pain.

WHAT HAPPENED TO ME IN THE HOSPITAL?  
- We performed a stress test, which was normal.  

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?  
-Please continue to take all of your medications and follow-up 
with your appointments as listed below.

We wish you the best!  

Sincerely,  
Your ___ Team 
 
Followup Instructions:
___